US06252082B1
22.2. Phenylmethyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate
It is prepared from 8 g (25.2 mmol) of phenylmethyl 4-hydroxy-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate and trifluoromethanesulphonic anhydride according to the method described in Example 1.4.

reactant | phenylmethyl 4-hydroxy-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate | 25.2 mmol, 8 g | OC1=C(C(N(C(=C1)C)CC(=O)OCC1=CC=CC=C1)=O)[N+](=O)[O-] | C15H14N2O6
reactant | trifluoromethanesulphonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Phenylmethyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate | CC1=CC(=C(C(N1CC(=O)OCC1=CC=CC=C1)=O)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C16H13F3N2O8S
